US04431653
The mixture of imidazole (0.7 g, 0.01 M) and NaH (50% by weight in mineral oil, 0.9 g, 0.018 M) in dimethylformamide (60 ml) was heated at 50° C. for 1/2 hr. and 4-(3-bromopropyl)-1-piperidinecarboxaldehyde (2.93 g, 0.0125 M) in dimethylformamide (20 ml) was added. The reaction was heated at 50° C. for 4 hrs. After the reaction, the solvent was removed in vacuo, water was added and the product was extracted with CH2Cl2 (3×50 ml). The combined extracts, dried over Na2SO4, were stripped to dryness and purified on silica gel column eluted with 10% by volume methanol-90% by volume methylenechloride to give 4[3-(1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde as an oil (2.12 g, 96%).

reactant | imidazole | 0.01 M, 0.7 g | N1C=NC=C1 | C3H4N2
reactant | NaH | 0.018 M, 0.9 g | [H-].[Na+]
reactant | 4-(3-bromopropyl)-1-piperidinecarboxaldehyde | 0.0125 M, 2.93 g | BrCCCC1CCN(CC1)C=O | C9H16BrNO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4[3-(1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde | 2.12 g, 96% | N1(C=NC=C1)CCCC1CCN(CC1)C=O | C12H19N3O
